US07163937B2
To a solution of (1R,2S,5R)-tert-butyl 2-((S)-3-(benzyloxycarbonylamino)-2-oxopyrrolidin-1-yl)-7-oxo-6-aza-bicyclo[3.2.1]octane-6-carboxylate (4.55 g, 9.94 mmol) in THF (50 mL) and water (50 mL) was added NaBH4, and the mixture was stirred for 5 h at rt. After quenching the reaction with sat. NaHCO3, the product was extracted with EtOAc (2×). The combined extracts were washed with brine, dried (MgSO4), filtered, and concentrated in vacuo to give an oily residue, which crystallized upon tritulation with 4:6 EtOAc and hexane to provide pure ((1R,3R,4S)-4-((S)-3-(benzyloxycarbonyl)amino-2-oxopyrrolidin-1-yl)-3-(hydroxymethyl)cyclohexyl)carbamic acid tert-butyl ester (2.61 g).

reactant | (1R,2S,5R)-tert-butyl 2-((S)-3-(benzyloxycarbonylamino)-2-oxopyrrolidin-1-yl)-7-oxo-6-aza-bicyclo[3.2.1]octane-6-carboxylate | 9.94 mmol, 4.55 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CC1)[C@@H]1[C@@H]2C(N([C@H](CC1)C2)C(=O)OC(C)(C)C)=O)=O | C24H31N3O6
reactant | NaBH4 | [BH4-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | ((1R,3R,4S)-4-((S)-3-(benzyloxycarbonyl)amino-2-oxopyrrolidin-1-yl)-3-(hydroxymethyl)cyclohexyl)carbamic acid tert-butyl ester | 2.61 g | C(C)(C)(C)OC(N[C@H]1C[C@H]([C@H](CC1)N1C([C@H](CC1)NC(=O)OCC1=CC=CC=C1)=O)CO)=O | C24H35N3O6
